US04173478
Preparation of 2-hydroxy-N-(indazol-6-yl)-5-(4-methoxyphenylazo)benzamide (Dye 9)
5-(4-Methoxyphenylazo)salicoyl chloride and 6-aminoindazole were reacted together as described in Preparation 7. The product was crystallized in aqueous pyridine, m.p. 279°, λmax (methanol)=350 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | 6-aminoindazole | NC1=CC=C2C=NNC2=C1 | C7H7N3
product | 2-hydroxy-N-(indazol-6-yl)-5-(4-methoxyphenylazo)benzamide | OC1=C(C(=O)NC2=CC=C3C=NNC3=C2)C=C(C=C1)N=NC1=CC=C(C=C1)OC | C21H17N5O3
